US08278294B2
A solution of 58 mg (0.51 mmol) azepan-4-ol in 5 ml dimethylacetamide was stirred with 45 mg (1.52 mmol) 80 percent sodium hydride for 45 minutes at room temperature. Then 150 mg (0.51 mmol) 6-fluoro-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one in dimethylacetamide was added. The reaction mixture was heated to 80° C. for 3 days during which additional amounts of azepan-4-ol and sodium hydride were added until complete conversion of the 6-fluoro-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one was obtained. The reaction mixture was slowly added to 10 ml water and after 1 h of stirring the product was isolated by filtration and dried overnight in vacuum. 82 mg of 6-(azepan-4-yloxy)-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one were obtained.

reactant | azepan-4-ol | 0.51 mmol, 58 mg | N1CCC(CCC1)O | C6H13NO
reactant | sodium hydride | 1.52 mmol, 45 mg | [H-].[Na+]
reactant | 6-fluoro-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one | 0.51 mmol, 150 mg | FC=1C=C2C=CN(C(C2=CC1C)=O)CC1=CC=C(C=C1)OC | C18H16FNO2
reactant | water | 10 ml | O | H2O
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 6-(azepan-4-yloxy)-2-(4-methoxy-benzyl)-7-methyl-2H-isoquinolin-1-one | 82 mg | N1CCC(CCC1)OC=1C=C2C=CN(C(C2=CC1C)=O)CC1=CC=C(C=C1)OC | C24H28N2O3
